US08084648B2
In addition, U.S. Pat. No. 5,146,024 discloses that benzene can be reacted with hydrogen in the presence of carbon monoxide and a palladium-containing zeolite X or Y to produce cyclohexylbenzene, which can then be converted in high yield to phenol and cyclohexanone by autooxidation with subsequent acid treatment. The hydroalkylation reaction is carried out at a liquid hourly space velocity (LHSV) of the benzene feed of about 1 to about 100 hr−1, a total reaction pressure of about 345 to about 10,350 kPa, a molar ratio of H2 to benzene of about 0.1:1 to about 10:1, a molar ratio of carbon monoxide to H2 of about 0.01:1 to about 0.3:1, and a temperature of about 100 to about 250° C. Preferred operating conditions are said to include a LHSV of the benzene feed of about 5 to about 30 hr−1, a total reaction pressure of about 1,380 to about 4,830 kPa, a molar ratio of H2 to benzene of about 0.2:1 to about 1:1, a molar ratio of CO to H2 of about 0.02:1 to about 0.1:1, and a reaction temperature of about 140 to about 200° C.

reactant | hydrogen | [H][H] | H2
reactant | carbon monoxide | [C]=O | CO
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | palladium | [Pd] | Pd
product | cyclohexylbenzene | C1(CCCCC1)C1=CC=CC=C1 | C12H16
